US08309562B2
{4-[Methyl-(2-methyl-quinazolin-4-yl)-amino]-phenoxy}-acetic acid
To a solution of {4-[methyl-(2-methyl-quinazolin-4-yl)-amino]-phenoxy}-acetic acid methyl ester (200 mg, 0.59 mmol) in THF (5 mL) was added potassium trimethylsilanoate (770 mg, 6 mmol). The mixture was stirred at ambient temperature for 1 h. The mixture was diluted with phosphate buffer (pH=5.5) and extracted with EtOAc (3×). The pH of the aqueous phase was raised to 6 with NaOH and was extracted with EtOAc (3×). The combined organics were dried over MgSO4, filtered and concentrated. The title compound was used without further purification. 1H NMR (DMSO-d6) δ 7.64 (d, 1H), 7.59 (t, 1H), 7.20 (d, 2H), 7.03 (t, 1H), 7.0-6.9 (m, 3H), 4.85 (s, 2H), 3.50 (s, 3H), 2.60 (s, 3H); LC-MS (ESI+; 324 ([M+H]+)).

reactant | {4-[methyl-(2-methyl-quinazolin-4-yl)-amino]-phenoxy}-acetic acid methyl ester | 0.59 mmol, 200 mg | COC(COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)C)C)=O | C19H19N3O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | phosphate | pH=5.5 | P(=O)([O-])([O-])[O-]
product | {4-[Methyl-(2-methyl-quinazolin-4-yl)-amino]-phenoxy}-acetic acid | CN(C1=CC=C(OCC(=O)O)C=C1)C1=NC(=NC2=CC=CC=C12)C | C18H17N3O3
